US05468751
Preparation of 1-difluoromethoxy-2-acetylnaphthalene
10 g of 1-hydroxy-2-acetylnaphthalene are dissolved in 60 ml of dioxane, and 30 ml of 30% sodium hydroxide solution are added. At a temperature of from 70° C. to 80° C., difluorochloromethane (Freon 22) is introduced until no further absorption is observed. The dioxane phase is then decanted, the NaOH phase is washed with dioxane, the dioxane phase is decanted, and the combined dioxane solutions are largely concentrated in vacuo using a rotary evaporator. Water is added to the residue, the mixture is extracted several times with diethyl ether, and the diethyl ether solution is dried over Na2SO4, filtered and concentrated by evaporation. The residue is recrystallised from diethyl ether/hexane. Yield: 4 g, m.p. 80°-81° C.

reactant | 1-hydroxy-2-acetylnaphthalene | 10 g | OC1=C(C=CC2=CC=CC=C12)C(C)=O | C12H10O2
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | difluorochloromethane | FC(Cl)F | CHClF2
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 1-difluoromethoxy-2-acetylnaphthalene | FC(OC1=C(C=CC2=CC=CC=C12)C(C)=O)F | C13H10F2O2
